US07566699B2
To a suspension of 6′-hydroxy-2′-(methoxycarbonylmethoxy)acetophenone (1 g) and 4-formylcinnamic acid (0.79 g) in ethanol (10 mL) were added water (2 mL) and potassium hydroxide (3 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 10% palladium-carbon powder (0.2 g), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration. The solvent of the filtrate was removed under reduced pressure. To the residue was added 2 mol/L hydrochloric acid, and the precipitated crystals were collected by filtration. The crystals were washed with water and dried under reduced pressure to give 4-(2-carboxyethyl)-2′-(carboxymethoxy)-6′-hydroxydihydrochalcone (1.55 g). This material was dissolved in acetic acid (12 mL). To the solution were added sodium acetate (8.6 g) and acetic anhydride (8.6 mL), and the mixture was stirred at 115° C. overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water twice. To the extract was added 1 mol/L aqueous sodium hydroxide solution, and the aqueous layer was separated. The aqueous layer was acidified by addition of 2 mol/L hydrochloric acid, and the resulting mixture was extracted with diethylether. The extract was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1) to give the title compound (0.29 g).

reactant | 6′-hydroxy-2′-(methoxycarbonylmethoxy)acetophenone | 1 g | OC1=CC=CC(=C1C(C)=O)OCC(=O)OC | C11H12O5
reactant | 4-formylcinnamic acid | 0.79 g | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | water | 2 mL | O | H2O
reactant | potassium hydroxide | 3 g | [OH-].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | 4-(2-carboxyethyl)-2′-(carboxymethoxy)-6′-hydroxydihydrochalcone | 1.55 g | C(=O)(O)CCC1=CCC(C=C1)C=CC(=O)C1=C(C=CC=C1O)OCC(=O)O | C20H20O7
